US04663453
9-Methyl-6-(4-methyl-1-piperidinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A stirred mixture of 6.26 g (0.0250 mole) of 9-methyl-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one and 1000 ml of toluene was heated under nitrogen until a solution resulted. Then there was added 24.8 g (0.250 mole) of 4-methylpiperidine, followed by 14.2 g (0.075 mole) of titanium tetrachloride. The mixture was heated under reflux for three hours, cooled to room temperature and filtered. The filtrate was stirred with 500 ml of 2N sodium hydroxide solution for 15 minutes and the layers were separated. The aqueous phase was extracted with 250 ml of toluene. The toluene layers were combined, washed once with 2N sodium hydroxide solution, twice with water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to 8.1 g (98%) of product. Recrystallization from ethyl acetate provided the analytical sample, mp 194°-196° C.

reactant | 9-methyl-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-one | 0.0250 mole, 6.26 g | CC1=CC2=C(N3C4=C(C(N2)=O)C=CC=C4CC3)C=C1 | C16H14N2O
reactant | 4-methylpiperidine | 0.250 mole, 24.8 g | CC1CCNCC1 | C6H13N
catalyst | titanium tetrachloride | 0.075 mole, 14.2 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | 9-Methyl-6-(4-methyl-1-piperidinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | CC1=CC2=C(N3C4=C(C(=N2)N2CCC(CC2)C)C=CC=C4CC3)C=C1 | C22H25N3
